US08030311B2
A solution of (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid, HATU (104 mg, 0.27 mmol, 1.1 equiv) and triethylamine (0.102 mL, 0.73 mmol) in DMF (4 mL) is stirred for 5 minutes under N2. 5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-ylamine is then added and after 2 h, a further 1.2 equiv of HATU is added and after a further 2 h an additional 1.2 equiv of HATU is added. After 4 h, DMF is removed and the residue taken up in EtOAc and washed with 1N HCl, 1N NaOH and finally with brine. The organic layer is dried with MgSO4, filtered and concentrated. The residue is purified by MPLC on reverse phase with ACN/water to give N-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)-2-oxo-acetamide as a yellow oil. Title compound: 479.05 [M+H]+; tR=1.9 min (System 2).

reactant | (4-imidazo[4,5-b]pyridine-3-yl-phenyl)-oxo-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)C(C(=O)O)=O | C14H9N3O3
reactant | HATU | 0.27 mmol, 104 mg, 1.1 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.73 mmol, 0.102 mL | C(C)N(CC)CC | C6H15N
reactant | 5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H19N3
reactant | HATU | 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HATU | 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)-2-oxo-acetamide | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(C(=O)C1=CC=C(C=C1)N1C=NC=2C1=NC=CC2)=O | C28H26N6O2
